US04767743
E6. 5-(S)-methyl-7-(t-butyldimethylsilyloxy)-2-heptene
To a slurry of 80 g. (0.2155 m) of triphenyl-ethyl phosphonium bromide in 800 ml. of dry tetrahydrofuran cooled to 0° C. was added 165.7 ml. of 1.3M solution of n-butyl lithium (0.2155 m) in the same solvent. After 2 hours, 45 g. (0.196 m) 3-(R)-methyl-5-(t-butyldimethylsilyloxy)-1-pentanal in 200 ml. of dry tetrahydrofuran was added dropwise to the reaction mixture. The reaction was allowed to stir 2 hours at room temperature and was then poured into water and extracted with ether. The combined extracts were washed with water and a brine solution and dried over magnesium sulfate. Removal of the solvent in vacuo gave a yellow oil which, on distillation gave 37.4 g. of product, b.p. 74°-79° C./0.2-0.1 torr.

reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 3-(R)-methyl-5-(t-butyldimethylsilyloxy)-1-pentanal | C[C@@H](CC=O)CCO[Si](C)(C)C(C)(C)C | C12H26O2Si
catalyst | triphenyl-ethyl phosphonium bromide | [Br-].C1(=CC=CC=C1)[P+](CC)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | O | H2O
product | 5-(S)-methyl-7-(t-butyldimethylsilyloxy)-2-heptene | C[C@@H](CC=CC)CCO[Si](C)(C)C(C)(C)C | C14H30OSi
